US06518277B1
2-Amino-N-(2-chlorophenyl)-5-fluorobenzamide (1r)
Prepared according to Procedure A using 2-amino-5-fluorobenzoic acid (1.0 g, 6.45 mmol) and SOCl2 (1.2 mL, 16.1 mmol) in benzene (30 mL), followed by 2-chloroaniline (1.4 mL, 12.9 mmol) and CHCl3 (30 mL). The product was triturated from CH2Cl2 to provide 985 mg of a mustard-yellow solid (58%). 1H NMR (CDCl3) δ: 7.66 (dd, J=2.9, 8.7 Hz, 1H); 7.52-7.55 (m, 1H); 7.32-7.37 (m, 3H); 7.09 (dt, J=3.0, 8.5 Hz, 1H); 6.71 (dd, J=4.3, 8.7 Hz, 1H). MS (ES): m/z 305.0 (M+40).

reactant | 2-amino-5-fluorobenzoic acid | 6.45 mmol, 1.0 g | NC1=C(C(=O)O)C=C(C=C1)F | C7H6FNO2
reactant | SOCl2 | 16.1 mmol, 1.2 mL | O=S(Cl)Cl | Cl2OS
reactant | 2-chloroaniline | 12.9 mmol, 1.4 mL | ClC1=C(N)C=CC=C1 | C6H6ClN
reactant | CHCl3 | 30 mL | C(Cl)(Cl)Cl | CHCl3
solvent | benzene | 30 mL | C1=CC=CC=C1 | C6H6
product | 2-Amino-N-(2-chlorophenyl)-5-fluorobenzamide | 985 mg, 58% | NC1=C(C(=O)NC2=C(C=CC=C2)Cl)C=C(C=C1)F | C13H10ClFN2O
